** Generated for: hspiceD
** Generated on: Nov  3 04:07:55 2025
** Design library name: ECE555
** Design cell name: ADD2x3
** Design view name: schematic** Library name: ECE555
** Cell name: INV
** View name: schematic
.subckt INV a vdd vss y
mp1 y a vdd vdd pmos_rvt w=81e-9 l=20e-9 nfin=3
mn0 y a vss vss nmos_rvt w=54e-9 l=20e-9 nfin=2
.ends INV
** End of subcircuit definition.

** Library name: ECE555
** Cell name: XOR2
** View name: schematic
.subckt XOR2 a b vdd vss y
mn3 net11 b vss vss nmos_rvt w=54e-9 l=20e-9 nfin=2
mn2 y a net11 vss nmos_rvt w=54e-9 l=20e-9 nfin=2
mn1 net3 net6 vss vss nmos_rvt w=54e-9 l=20e-9 nfin=2
mn0 y net2 net3 vss nmos_rvt w=54e-9 l=20e-9 nfin=2
mp7 y net6 net25 vdd pmos_rvt w=81e-9 l=20e-9 nfin=3
mp6 net25 a vdd vdd pmos_rvt w=81e-9 l=20e-9 nfin=3
mp5 net19 net2 vdd vdd pmos_rvt w=81e-9 l=20e-9 nfin=3
mp4 y b net19 vdd pmos_rvt w=81e-9 l=20e-9 nfin=3
xi1 b vdd vss net6 INV
xi0 a vdd vss net2 INV
.ends XOR2
** End of subcircuit definition.

** Library name: ECE555
** Cell name: AND2
** View name: schematic
.subckt AND2 a b vdd vss y
mn7 net6 b vss vss nmos_rvt w=54e-9 l=20e-9 nfin=2
mn4 y net5 vss vss nmos_rvt w=54e-9 l=20e-9 nfin=2
mn6 net5 a net6 vss nmos_rvt w=54e-9 l=20e-9 nfin=2
mn3 net11 a vss vss nmos_rvt w=54e-9 l=20e-9 nfin=2
mn2 net5 b net11 vss nmos_rvt w=54e-9 l=20e-9 nfin=2
mp5 y net5 vdd vdd pmos_rvt w=81e-9 l=20e-9 nfin=3
mp0 net5 b vdd vdd pmos_rvt w=81e-9 l=20e-9 nfin=3
mp1 net5 a vdd vdd pmos_rvt w=81e-9 l=20e-9 nfin=3
.ends AND2
** End of subcircuit definition.

** Library name: ECE555
** Cell name: NAND2
** View name: schematic
.subckt NAND2 a b vdd vss y
mp1 y b vdd vdd pmos_rvt w=81e-9 l=20e-9 nfin=3
mp0 y a vdd vdd pmos_rvt w=81e-9 l=20e-9 nfin=3
mn3 net11 b vss vss nmos_rvt w=108e-9 l=20e-9 nfin=4
mn2 y a net11 vss nmos_rvt w=108e-9 l=20e-9 nfin=4
.ends NAND2
** End of subcircuit definition.

** Library name: ECE555
** Cell name: ADD2x3
** View name: schematic
xi23 net13 net38 vdd vss s<2> XOR2
xi22 net3 net13 vdd vss s<1> XOR2
xi21 a<1> b<1> vdd vss net13 XOR2
xi20 a<0> b<0> vdd vss s<0> XOR2
xi19 a<0> b<0> vdd vss net3 AND2
xi26 net37 net36 vdd vss net38 NAND2
xi25 a<1> b<1> vdd vss net37 NAND2
xi24 net13 net3 vdd vss net36 NAND2
.END
